US07414140B2
In a 3 neck flask were placed fluvastatin methyl ester (3.0 g) and cyclohexane (60 ml) then the mixture was heated to reflux. A solution of NaOH (0.29 g) in MeOH (3 ml) was added and the mixture was stirred at reflux for 1.6 h. The slurry was cooled to room temperature, cyclohexane (40 ml) was added and the mixture was stirred over night. The product was isolated by filtration under nitrogen, washed with cyclohexane (90 ml) and dried at 50° C. in a vacuum oven for 24 h to obtain 2.81 g (93%) of fluvastatin sodium Form XCVII.

reactant | fluvastatin methyl ester | 3.0 g | CC(C)N1C2=CC=CC=C2C(=C1/C=C/[C@@H](C[C@@H](CC(=O)OC)O)O)C3=CC=C(C=C3)F | C25H28FNO4
reactant | cyclohexane | 60 ml | C1CCCCC1 | C6H12
reactant | NaOH | 0.29 g | [OH-].[Na+]
reactant | cyclohexane | 40 ml | C1CCCCC1 | C6H12
solvent | MeOH | 3 ml | CO | CH4O
product | fluvastatin sodium | 2.81 g, 93% | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+] | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;
